### PR TITLE
[Merged by Bors] - feat(Data/EReal): toReal_pos

### PR DESCRIPTION
**Pull request by jeremypparker**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jeremypparker** [comment]
easy

File: Mathlib/Data/EReal/Basic.lean [hunk 1]
```diff
@@ -366,6 +366,10 @@ lemma toReal_nonpos {x : EReal} (hx : x ≤ 0) : x.toReal ≤ 0 := by
   · exact toReal_coe _ ▸ EReal.coe_nonpos.mp hx
   · simp
 
+lemma toReal_pos {x : EReal} (hx : 0 < x) (h'x : x ≠ ⊤) : 0 < x.toReal := by
+  lift x to ℝ using ⟨h'x, (ne_of_lt (bot_lt_zero.trans hx)).symm⟩
+  simpa using hx
```
Comment (ocfnash) [inline Mathlib/Data/EReal/Basic.lean:371]: Three minor suggestions:

1. We don't have to work so hard: `aesop` can really help here.\
2. I'd express this using `Set.Ioo`
3. If we do this for the positive case we should also do the negative

Bearing all these in mind I get:
```suggestion
lemma toReal_pos {x : EReal} (hx : x ∈ Ioo 0 ⊤) : 0 < x.toReal := by
  lift x to ℝ using by aesop
  aesop

lemma toReal_neg {x : EReal} (hx : x ∈ Ioo ⊥ 0) : x.toReal < 0 := by
  lift x to ℝ using by aesop
  aesop
```

Comment (ocfnash) [reply Mathlib/Data/EReal/Basic.lean:371]: And looking at these I then think maybe we should also (or instead?) add:
```lean
lemma toReal_image_Ioo_zero_top : toReal '' (Ioo 0 ⊤) = Ioi 0 := by
 -- your proof here

lemma toReal_image_Ioo_bot_zero : toReal '' (Ioo ⊥ 0) = Iio 0 := by
  -- your proof here
```
What do you think?

Comment (jeremypparker) [reply Mathlib/Data/EReal/Basic.lean:371]: I don't think we should use intervals for these. That would require changing the existing nonneg ones to Ico etc and I think it's inconsistent with how these things are done in mathlib generally

Comment (jeremypparker) [reply Mathlib/Data/EReal/Basic.lean:371]: I had toReal_neg in the initial version of this PR and I can't for the life of me remember why I then removed it but I must have had a good reason

Comment (ocfnash) [reply Mathlib/Data/EReal/Basic.lean:371]: > I don't think we should use intervals for these. That would require changing the existing nonneg ones to Ico etc

Could you give an example of such a lemma so that I know exactly what you have in mind?

> and I think it's inconsistent with how these things are done in mathlib generally

I'm not sure what you have in mind here, but I don't think I agree. For one thing I note that the file you're working already has numerous lemmas about the interaction of `toEReal` and intervals.

Comment (jeremypparker) [reply Mathlib/Data/EReal/Basic.lean:371]: I specifically meant toReal_nonneg and toReal_nonpos immediately above this. (I guess "require" was the wrong word, but they should all be consistent.)

Also compare with [ENNReal.toReal_pos](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/ENNReal/Real.html#ENNReal.toReal_pos) and the others there, or like [Real.toNNReal_pos](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/NNReal/Defs.html#Real.toNNReal_pos). None of these are defined in terms of intervals

Comment (ocfnash) [reply Mathlib/Data/EReal/Basic.lean:371]: Thanks, the comparison with `ENNReal.toReal_pos` is quite compelling. Let's not use intervals here, for now at least.

However I still think points 1 & 3 of my original remark hold, and optionally, I think it would be very nice to add `toReal_image_Ioo_zero_top` and `toReal_image_Ioo_bot_zero` if you have the appetite.

**Review by jeremypparker — COMMENTED** [review]
-awaiting-author

**Comment by jeremypparker** [comment]
Aha now we know why I originally removed my toReal_neg a month ago!
